US08461107B2
Step 1: 2-(Benzyloxy)-6-fluoropyridine
An oven-dried 3-neck 2 L round bottom flask under nitrogen was charged with benzyl alcohol (9.04 ml, 87 mmol) and tetrahydrofuran (75 ml). Attached an addition funnel containing a solution of 2,6-difluoropyridine (10.00 g, 87 mmol) in tetrahydrofuran (30 ml). Sodium hydride (3.82 g, 96 mmol) was added in small portions with stirring. Heated in a 50° C. oil bath for 45 minutes; cooled to room temperature. Added contents of addition funnel dropwise. After 18 hours poured into water. Extracted three times with ethyl acetate, washed combined organic portions with brine, dried with anhydrous magnesium sulfate, filtered and rotary evaporated filtrate. The crude product was subjected to flash column chromatography eluting with hexane. Evaporation of fractions gave the title compound as a colorless oil. (17.70 g, 87 mmol, 100% yield). LCMS (ES+) m/z 204.3 (M+H)+.

reactant | benzyl alcohol | 87 mmol, 9.04 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 2,6-difluoropyridine | 87 mmol, 10.00 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | Sodium hydride | 96 mmol, 3.82 g | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 2-(Benzyloxy)-6-fluoropyridine | 100% yield | C(C1=CC=CC=C1)OC1=NC(=CC=C1)F | C12H10FNO
